US04298741
A solution of benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (1 mmol) and acetic anhydride (10 mmol) in anhydrous pyridine (1 ml) is kept at 0°-5° C. for 3 days. The solution is concentrated under vacuum, diluted with ethyl acetate, washed with water, pH 2 buffer, 5% sodium bicarbonate solution, and brine, dried with magnesium sulfate, filtered, and evaporated under vacuum to give benzyl 6-azido-3-acetoxyl-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-azido-1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 1 mmol | N(=[N+]=[N-])C1C2CC(C(N2C1=O)C(=O)OCC1=CC=CC=C1)=O | C14H12N4O4
reactant | acetic anhydride | 10 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | benzyl 6-azido-3-acetoxyl-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)OC(=O)C | C16H14N4O5
